US06949579B2
The process is performed as in Example 75, starting with 500 mg of 2-chloro-N-(6-chloro-1H-indazol-3-yl)acetamide, 15 cm3 of acetonitrile and 0.68 cm3 of N,N-dimethylethylenediamine. The reaction medium is refluxed for 2 hours and then concentrated to dryness under reduced pressure (2 kPa; 50° C.); the crude product is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with a methylene chloride/methanol/aqueous ammonia mixture (95/5/1 by volume). The fractions containing the expected product are combined, concentrated under reduced pressure and then dried (90 Pa; 45° C.) to give 113 mg of N-(6-chloro-1H-indazol-3-yl)-2-[[2-(dimethylamino)ethyl]amino]acetamide in the form of a white solid melting at 104° C.

reactant | 2-chloro-N-(6-chloro-1H-indazol-3-yl)acetamide | 500 mg | ClCC(=O)NC1=NNC2=CC(=CC=C12)Cl | C9H7Cl2N3O
reactant | N,N-dimethylethylenediamine | 0.68 cm3 | CN(CCN)C | C4H12N2
solvent | acetonitrile | 15 cm3 | C(C)#N | C2H3N
product | N-(6-chloro-1H-indazol-3-yl)-2-[[2-(dimethylamino)ethyl]amino]acetamide | 113 mg | ClC1=CC=C2C(=NNC2=C1)NC(CNCCN(C)C)=O | C13H18ClN5O
